US04057647
69.7 g. of triphenylphosphoranylideneacetic acid ethyl ester and 29.7 g. of 4-(1-bromoethyl)-2',4'-difluorobiphenyl in 300 ml. of absolute ethyl acetate are heated under reflux for 54 hours. The precipitate is filtered off and the filtrate is evaporated. Crude [1-(2',4'-difluoro-4-biphenylyl)ethyl]triphenylphophoranylideneacetic acid ethyl ethyl ester thus obtained is dissolved in 500 ml. of methanol to which 150 ml. of 20% potassium hydroxide solution are added and the mixture is heated under reflux for one hour. The methanol is distilled off, water is added and the reaction mixture is washed with ether and acidified with hydrochloric acid to give 3-(2',4'-difluoro-4-biphenylyl)butyric acid, m.p. 109°-110°.

reactant | triphenylphosphoranylideneacetic acid ethyl ester | C(C)OC(C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C22H21O2P
reactant | 4-(1-bromoethyl)-2',4'-difluorobiphenyl | BrC(C)C1=CC=C(C=C1)C1=C(C=C(C=C1)F)F | C14H11BrF2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | potassium hydroxide | [OH-].[K+]
solvent | methanol | CO | CH4O
product | 3-(2',4'-difluoro-4-biphenylyl)butyric acid | FC1=C(C=CC(=C1)F)C1=CC=C(C=C1)C(CC(=O)O)C | C16H14F2O2
